US08222274B2
A 910 mg portion of 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylic acid was dissolved in 10 ml of N,N-dimethylformamide, and under ice-cooling 748 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 527 mg of 1-hydroxybenzotriazole were added, followed by stirring at the same temperature for 1 hour. A 0.65 ml portion of N,N-dimethylethane-1,2-diamine was added to the reaction liquid, and after stirring at room temperature for 15 hours, the solvent was evaporated under a reduced pressure. Ethyl acetate was added to the residue and, after washing with a saturated sodium bicarbonate aqueous solution, water and saturated brine, the organic layer was dried over anhydrous magnesium sulfate. After evaporation of the solvent under a reduced pressure, the residue was washed with ethyl acetate to obtain 783 mg of 5-tert-butyl-N-[2-(dimethylamino)ethyl]-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide as a colorless solid. A 783 mg portion of this product was dissolved in 5 ml of methanol, and 1 ml of 4 M hydrogen chloride/ethyl acetate was added under ice-cooling, followed by stirring at the same temperature for 30 minutes. The solvent was evaporated under a reduced pressure, and the resulting residue was solidified with methanol-ethyl acetate to obtain 360 mg of 5-tert-butyl-N-[2-(dimethylamino)ethyl]-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide as a colorless solid.

reactant | 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylic acid | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)O | C18H22FNO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 748 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 527 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-dimethylethane-1,2-diamine | CN(CCN)C | C4H12N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-tert-butyl-N-[2-(dimethylamino)ethyl]-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide | 783 mg | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)NCCN(C)C | C22H32FN3O
